US05514691
3,4-Dichloro-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide was prepared from 5-amino-4-bromo-3-methylisoxazole and 3,4dichlorobenzenesulfonyl chloride according to the procedures described in Example 5. The crude product was purified by recrystallization from ethyl acetate/hexanes to give a crystalline solid, m.p. 144°-146° C., yield 60%.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 3,4dichlorobenzenesulfonyl chloride | ClC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | 3,4-Dichloro-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide | yield 60% | ClC=1C=C(C=CC1Cl)S(=O)(=O)NC1=C(C(=NO1)C)Br | C10H7BrCl2N2O3S
